US04464530
To 200 ml of acetone were added 10.0 g of D-mannitol and 175 mg of hydriodic acid (57%) and the mixture was refluxed with stirring in a water bath at 60° C. for 5 hours. During this reaction, the refluxing solvent was dried with 20 g of Molecular Sieves 3A interposed between the reaction vessel and the cooling jacket. After completion of the reaction, a small amount of pyridine was added. The acetone was then distilled off under reduced pressure and the residue was dissolved in chloroform. The solution was washed with aqueous sodium bicarbonate and water and dried over anhydrous magnesium sulfate. The chloroform was distilled off under reduced pressure to give 15.0 g (90%) of 1,2:3,4:5,6-tri-O-isopropylidene-D-mannitol. After recrystallization from 70% ethanol, it melted at 68.5°-70.5° C.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | D-mannitol | 10.0 g | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | hydriodic acid | 175 mg | I | HI
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,2:3,4:5,6-tri-O-isopropylidene-D-mannitol | 15.0 g, 90% | CC1(OCC(O1)C2C(OC(O2)(C)C)C3COC(O3)(C)C)C | C15H26O6
